US09029560B2
Preparation of (Z)-1-allyl-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (FB61)
The title compound was prepared as described in Example 95 using N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)prop-2-en-1-amine (CB26) and (Z)-4-nitrophenyl(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50), purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and isolated as a brown oil (0.040 g, 43%).

reactant | N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)prop-2-en-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNCC=C)C=C1)(F)F | C20H19F3N4O
reactant | (Z)-4-nitrophenyl(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | [N+](=O)([O-])C1=CC=C(C=C1)C1C(N(/C(/S1)=N/C([O-])=O)C1=C(C=CC(=C1)C)C(C)C)=O
product | (Z)-1-allyl-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | C(C=C)N(C(=O)\N=C\1/SCC(N1C1=C(C=CC(=C1)C)C(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C34H33F3N6O3S
